US06310243B1
b. 3,5-Bis-(2-propenyloxy)-benzyl alcohol
2-Propenyl-3,5-bis-(2-propenyloxy)-benzoate (23.1 g, 84.2 mmol) was dissolved in dry diethyl ether (250 ml) and added dropwise at 0° C. to a suspension of lithium aluminium hydride (3.45 g, 91.0 mmol) in dry diethyl ether (200 ml). The mixture was stirred at room temperature for 16 h and ethyl acetate (5 ml) was added slowly followed by water (10 ml) and diluted aqueous hydrochloric acid (2 M, 4 ml) to bring pH to 4. The phases were separated and the aqueous phase was extracted with diethyl ether (50 ml). The combined organic phases washed with water (50 ml), dried (Na2SO4), and the solvent was evaporated to give 18.4 g (99%) of the product as a colorless oil.

reactant | 2-Propenyl-3,5-bis-(2-propenyloxy)-benzoate | 84.2 mmol, 23.1 g | C(=CC)C1=C(C(=O)[O-])C=C(C=C1OCC=C)OCC=C
reactant | lithium aluminium hydride | 91.0 mmol, 3.45 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 2 M, 4 ml | Cl | ClH
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | water | 10 ml | O | H2O
product | 3,5-Bis-(2-propenyloxy)-benzyl alcohol | 18.4 g, 99% | C(C=C)OC=1C=C(CO)C=C(C1)OCC=C | C13H16O3
